US08975400B2
5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile
Prepared in a manner similar to that described for E1 using sodium hydride (6.46 mg, 0.162 mmol), 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile (31.7 mg, 0.108 mmol) in THF (8 mL) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (20 mg, 0.11 mmol).

reactant | sodium hydride | 0.162 mmol, 6.46 mg | [H-].[Na+]
reactant | 5-(hydroxymethyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile | 0.108 mmol, 31.7 mg | OCC=1C=NC(=C(C#N)C1)OC1=CC(=CC=C1)C(F)(F)F | C14H9F3N2O2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.11 mmol, 20 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)-2-(3-(trifluoromethyl)phenoxy)nicotinonitrile | CN1CCN2C(N=C(C=C21)OCC=2C=NC(=C(C#N)C2)OC2=CC(=CC=C2)C(F)(F)F)=O | C21H16F3N5O3
